US09102899B2
3-ethyl-2-phenyl-pent-2-ene nitrile
The title compound was prepared according to the procedure described in Example 1, by reacting benzyl cyanide with 3-pentanone in the presence of a base.

reactant | benzyl cyanide | C(C1=CC=CC=C1)C#N | C8H7N
solvent | 3-pentanone | CCC(CC)=O | C5H10O
product | 3-ethyl-2-phenyl-pent-2-ene nitrile | C(C)C(=C(C#N)C1=CC=CC=C1)CC | C13H15N
